US08431575B2
To a stirred solution of 3-azidomethyl-4-methoxy-piperidine-1-carboxylic acid tert-butyl ester (0.74 mmol, 0.2 g) in ethyl acetate (5 mL) was added 10% palladium on carbon (0.1 g, wet), and the resultant reaction mixture was subjected to hydrogenation using a balloon full of hydrogen for 1 h. The catalyst was filtered through a pad of celite, washed the celite pad with methanol, and the combined filtrate was concentrated under reduced pressure to provide 3-aminomethyl-4-methoxy-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 3-azidomethyl-4-methoxy-piperidine-1-carboxylic acid tert-butyl ester | 0.74 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)OC)CN=[N+]=[N-] | C12H22N4O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | 3-aminomethyl-4-methoxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)OC)CN | C12H24N2O3
